US04126687
To a solution of 0.5 parts of sodium in 40 parts of absolute ethanol are added in the cold 5.4 parts of 1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate. The whole is stirred until all solid enters solution. The solution is further stirred and refluxed for 2 hours. After cooling, the reaction mixture is filtered from some inorganic matter and the filtrate is evaporated. The residue is dissolved in 80 parts of methylbenzene, boiled with activated charcoal, filtered and the filtrate is evaporated again. The solid residue is washed with cold methylbenzene and crystallized from 16 parts of methylbenzene, yielding 2.6 parts of 3,4-dihydro-2H-[1,3]oxazino[3,2-a]benzimidazole; mp. 116.5°-118.5° C.

reactant | sodium | [Na] | Na
reactant | 1,3-dihydro-1-(3-hydroxypropyl)-2H-benzimidazol-2-one methanesulfonate | CS(=O)(=O)O.OCCCN1C(NC2=C1C=CC=C2)=O
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dihydro-2H-[1,3]oxazino[3,2-a]benzimidazole | O1CCCN2C1=NC1=C2C=CC=C1 | C10H10N2O
